US08034812B2
Production of 1,3-dimethyl-N-{2-methyl-5-[(2-{[(1-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide
To a solution of 1-methylcyclopropanecarboxylic acid (97 mg, 0.97 mmol) in tetrahydrofuran (1.5 mL) were added N,N-dimethylformamide (1 drop) and oxalyl chloride (83 μL, 0.97 mmol), and the mixture was stirred at room temperature for 30 min. The reaction mixture was added to a solution of N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol) in N,N-dimethylacetamide (5 mL), and the mixture was stirred at room temperature for 1 hr. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogencarbonate solution were added to the mixture, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×4). Combined organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→100/0) to give the title compound (105 mg, 74%) as a white solid.

reactant | 1-methylcyclopropanecarboxylic acid | 0.97 mmol, 97 mg | CC1(CC1)C(=O)O | C5H8O2
reactant | oxalyl chloride | 0.97 mmol, 83 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 1,3-dimethyl-N-{2-methyl-5-[(2-{[(1-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 105 mg, 74% | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2(CC2)C)C)C | C24H25N7O3
